US09079866B2
5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine
Nitrogen sparged 1,4-dioxane (80 mL) was added to a 250 mL round-bottomed flask containing 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.1 g, 8.4 mmol), 5-(4-chloro-2-fluorophenyl)pyrimidin-2-amine (1.5 g, 6.7 mmol), chloro(2-dicyclohexyl-phosphino-2′,4′,6′-triisopropyl-1-1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (X-Phos pre-catalyst) (0.1 g, 0.13 mmol), and potassium acetate (1.9 g, 20 mmol). The reaction mixture was heated at 80° Celsius for 4 hours before cooling to rt, concentrating to dryness, and the residue subjected to FCC to provide the title compound (1.8 g, 83%). MS (ESI): mass calcd. for C16H19BFN3O2, 315.15; m/z found, 316.4 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.53 (d, J=1.3 Hz, 2H), 7.64 (dd, J=7.6, 1.0 Hz, 1H), 7.58 (dd, J=11.0, 0.9 Hz, 1H), 7.38 (m, 1H), 5.23 (s, 2H), 1.36 (s, 12H).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.4 mmol, 2.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 5-(4-chloro-2-fluorophenyl)pyrimidin-2-amine | 6.7 mmol, 1.5 g | ClC1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C10H7ClFN3
reactant | potassium acetate | 20 mmol, 1.9 g | C(C)(=O)[O-].[K+]
product | 5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | 1.8 g, 83% | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
